US09145441B2
Compound 85a: 2-Cyano-2-methyl-but-3-enoic acid tert-butyl ester
To a stirred slurry of sodium hydride (60% in mineral oil, 880 mg, 22 mmol) in dry N,N-dimethylformamide (100 mL) at 0° C., under nitrogen, was added dropwise cyano-methyl-acetic acid tert-butyl ester (prepared as in J. Am. Chem. Soc. 2011, 133, 8165, 3.10 g, 20 mmol). Any residual cyano-methyl-acetic acid tert-butyl ester was transferred by washing its original vessel with a little N,N-dimethylformamide and transferring to the reaction mixture. The reaction mixture was allowed to warm to ambient temperature for 40 minutes and then cooled to 0° C. 1,2-Dibromoethane (3.95 g, 1.81 mL, 21 mmol) was added dropwise via syringe pump over 30 minutes. The reaction mixture was stirred at 0° C. for a further 3 h and then allowed to warm to ambient temperature for 1 h. The mixture was poured into water and extracted with ethyl acetate (3×) and the combined organic extracts were washed with water (3×), dried over anhydrous magnesium sulfate, filtered and evaporated. To the residue was added 1,8-diazabicyclo[5.4.0]undec-7-ene (3.14 g, 3.07 mL, 20.6 mmol) and the mixture stirred and heated to 80° C. for 30 minutes and then allowed to cool. Saturated ammonium chloride solution was added and the mixture extracted with diethyl ether (2×). The organic extracts were washed with 0.5 M Hydrochloric acid, saturated sodium bicarbonate solution, saturated brine, dried over anhydrous magnesium sulfate, filtered and evaporated. The residue was purified by silica gel chromatography using iso-hexanes/ethyl acetate 19:1 to afford the title compound (3.15 g, 87%) as a pale yellow oil. 1H NMR (300 MHz, CDCl3) δ 1.52 (s, 9H), 1.68 (s, 3H), 5.37 (d, J=10.0 Hz, 1H), 5.63 (d, J=17.0 Hz, 1H), 5.89 (dd, J=17.0, 10.0 Hz, 1H).

reactant | sodium hydride | 22 mmol, 880 mg | [H-].[Na+]
reactant | cyano-methyl-acetic acid tert-butyl ester | 20 mmol, 3.10 g | C(C)(C)(C)OC(C(C)C#N)=O | C8H13NO2
reactant | 1,2-Dibromoethane | 21 mmol, 1.81 mL, 3.95 g | BrCCBr | C2H4Br2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 20.6 mmol, 3.07 mL, 3.14 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-Cyano-2-methyl-but-3-enoic acid tert-butyl ester | 3.15 g, 87% | C(C)(C)(C)OC(C(C=C)(C)C#N)=O | C10H15NO2
